* File     : SMBJ.LIB
* Revision : 1.0
* Date     : June 2011
*
***************************************************************************************
* Information included is believed to be accurate and reliable. However, *
* ST Microelectronics assumes no responsibility for the consequences of  *
* use of such information nor for any infringement of patents or other   *
* rights of third parties which may result from its use. No license is   *
* granted by implication or otherwise under any patent patent rights of  *
* ST Microelectronics. Specification mentionned in this publication are  *
* subject to change without notice. This publication superseedes and 	 *
* replaces all information previously supplied. ST Microelectronics      *
* products are not authorized for use as critical components in life     *
* support or systems without express written approval of ST              *
* Microelectronics.                          	                         *
*                                                                    	 *			*
*    (c) 1997 ST Microelectronics. All rights reserved.     	         *
*                                                                    	 *			*
*           ST Microelectronics GROUP OF COMPANIES                       *
* Australia - Brazil - France - Germany - Hong Kong - Italy - Japan  	 *
* Korea - Malaysia - Malta - Morocco - The Netherlands - Singapore   	 *
* Spain - Sweden - Switzerland - Taiwan - United Kingdom - U.S.A.    	 *
*									 *
***************************************************************************************
*
* UNIDIRECTIONAL TRANSIL
*$
.SUBCKT TRANSIL  Anode  Cathode  PARAMS:
+ IRM=1u VBRnom=12  VBRmax=13  IR=1m 
+ VCLmax=20  Ipp=100  Cjof=1n
+ ISF=1f  NF=1  RSF=1m  IKFF=1000
* IRM		Stand-off current at VRM
* VBR		Breakdown voltage
* IR		Reverse current at VBR
* VCL		Clamping voltage
* Ipp		Surge current
* Cjo		junction capacitance at 0V
* IS		Saturation current
* N		Emission coefficient
* RS		Serie résistance
* IKF		High injection knee current
Drev    A_int    Cathode    TRANSR
Dfwd   Anode   Cathode    TRANSF
Dr       A_int    Anode       DTRANS
***** REVERSE BEHAVIOUR *****
.MODEL  TRANSR  D(
+ IS={IRM/2}   RS={(VCLmax-VBRmax)/Ipp}
+ BV={VBRnom}  IBV={IR}
+ IKF=1000  Cjo=1p  M=.3333  VJ=.6
+ ISR=1n  TT=1u )
****************** FORWARD BEHAVIOUR ******************
***** JUNCTION CAPACITANCE BEHAVIOUR Cj(VR) *****
.MODEL   TRANSF  D(
+ IS={ISF}  N={NF}  RS={RSF}  IKF={IKFF}
+ Cjo={Cjof}  M=.3333  VJ=0.6  ISR=1.000E-21
+ BV=1000  IBV=1n  TT=1u )
.MODEL   DTRANS  D(
+ IS=1n  N=.01  RS=1u  IKF=1000  Cjo=1p
+ M=.3333  VJ=.6  ISR=1n  BV=1000  IBV=1u
+ TT=1u )
.ENDS
*********** BIDIRECTIONAL TRANSIL **********
******** PARAMETERS DESCRIPTION ********
*********** LOW VOLTAGE ************
*$
.SUBCKT   TRANSILB   Anode1  Anode2   PARAMS:
+ IRM=1u VBRnom=12  VBRmax=13  IR=1m 
+ VCLmax=20  Ipp=100  Cjof=1n
+ ISBF=1f  NBF=1
***** SCHEMATICS DESCRIPTION *****
Drev1    A_int1     Cathode   TRANSR
Dfwd1   Anode1    Cathode  TRANSBF
Dr1       A_int1     Anode1    DTRANS
Drev2    A_int2     Cathode   TRANSR
Dfwd2   Anode2    Cathode   TRANSBF
Dr2       A_int2     Anode2     DTRANS
***** REVERSE BEHAVIOUR *****
.MODEL  TRANSR  D(
+ IS={IRM/2}   RS={(VCLmax-VBRmax)/Ipp}
+ BV={VBRnom}  IBV={IR}
+ IKF=1000  Cjo=1p  M=.3333  VJ=.6
+ ISR=1p  TT=1u )
***** JUNCTION CAPACITANCE BEHAVIOUR *****
.MODEL   TRANSBF   D(
+ IS={ISBF}  N={NBF}  RS=1u  IKF=1000
+ Cjo={Cjof}  M=.3333  VJ=.6  ISR=1p
+ BV=1000  IBV=100u  TT=1u )
.MODEL   DTRANS  D(
+ IS=1n  N=.01  RS=1u  IKF=1000  Cjo=1p
+ M=.3333  VJ=.6  ISR=1p  BV=1000  IBV=100u
+ TT=1u )
.ENDS
*********** HIGH VOLTAGE ************
*$
.SUBCKT   TRANSILBHT   Anode1  Anode2   PARAMS:
+ IRM=1u VBRnom=12  VBRmax=13  IR=1m 
+ VCLmax=20  Ipp=100  Cjof=1n
******* SCHEMATICS DESCRIPTION *******
Drev1    A_int1     Cathode   TRANSR
Dfwd1   Anode1    Cathode  TRANSBF
Dr1       A_int1     Anode1    DTRANS
Drev2    A_int2     Cathode   TRANSR
Dfwd2   Anode2    Cathode   TRANSBF
Dr2       A_int2     Anode2     DTRANS
********** REVERSE BEHAVIOUR **********
.MODEL  TRANSR  D(
+ IS={IRM/2}   RS={(VCLmax-VBRmax)/Ipp}
+ BV={VBRnom}  IBV={IR}
+ IKF=1000  Cjo=1p  M=.3333  VJ=.6
+ ISR=1p  TT=1u )
***** JUNCTION CAPACITANCE BEHAVIOUR *****
.MODEL   TRANSBF   D(
+ IS=1p  N=1  RS=1m  IKF=1000
+ Cjo={Cjof}  M=.3333  VJ=.6  ISR=1p
+ BV=1000  IBV=100u  TT=1u )
.MODEL   DTRANS  D(
+ IS=1p  N=1  RS=1m  IKF=1000  Cjo=1p
+ M=.3333  VJ=.6  ISR=1p  BV=1000  IBV=100u
+ TT=1u )
.ENDS
*************************************************************************************************
*				SMBJ FAMILY					*
*************************************************************************************************
*$
.SUBCKT  SMBJ5_0A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=20u  VBRnom=6.8  VBRmax=7.6
+ IR=10m  VCLmax=13.4  Ipp=298  Cjof=4000p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ5_0CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=20u  VBRnom=6.8  VBRmax=7.6
+ IR=10m  VCLmax=13.4  Ipp=298  Cjof=4000p
+ ISBF=1n  NBF=.01
.ENDS
*$
.SUBCKT  SMBJ6_0A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=20u  VBRnom=7.0  VBRmax=7.9
+ IR=10m  VCLmax=13.7  Ipp=290  Cjof=3850p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ6_0CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=20u  VBRnom=7.0  VBRmax=7.9
+ IR=10m  VCLmax=13.7  Ipp=290  Cjof=3850p
+ ISBF=1n  NBF=.01
.ENDS
*$
.SUBCKT  SMBJ6_5A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=20u  VBRnom=7.5  VBRmax=8.5
+ IR=10m  VCLmax=14.5  Ipp=276  Cjof=3700p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ6_5CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=20u  VBRnom=7.5  VBRmax=8.5
+ IR=10m  VCLmax=14.5  Ipp=276  Cjof=3700p
+ ISBF=1n  NBF=.01
.ENDS
*$
.SUBCKT  SMBJ8_5A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=20u  VBRnom=10  VBRmax=11.1
+ IR=1m  VCLmax=19.5  Ipp=205  Cjof=2800p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMBJ8_5CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=20u  VBRnom=10  VBRmax=11.1
+ IR=1m  VCLmax=19.5  Ipp=205  Cjof=2800p
+ ISBF=1n  NBF=.01
.ENDS
*$
.SUBCKT  SMBJ10A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=12  VBRmax=13.1
+ IR=1m  VCLmax=21.7  Ipp=184  Cjof=2300p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ10CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=12  VBRmax=13.1
+ IR=1m  VCLmax=21.7  Ipp=184  Cjof=2300p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ12A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=14  VBRmax=15.7
+ IR=1m  VCLmax=25.3  Ipp=157  Cjof=2025p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ12CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=14  VBRmax=15.7
+ IR=1m  VCLmax=25.3  Ipp=157  Cjof=2025p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ13A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=15  VBRmax=17.0
+ IR=1m  VCLmax=27.2  Ipp=147  Cjof=1900p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ13CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=15  VBRmax=17.0
+ IR=1m  VCLmax=27.2  Ipp=147  Cjof=1900p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ15A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=18  VBRmax=19.7
+ IR=1m  VCLmax=32.5  Ipp=123  Cjof=1600p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ15CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=18  VBRmax=19.7
+ IR=1m  VCLmax=32.5  Ipp=123  Cjof=1600p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ18A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=22  VBRmax=23.6
+ IR=1m  VCLmax=39.3  Ipp=102  Cjof=1350p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ18CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=22  VBRmax=23.6
+ IR=1m  VCLmax=39.3  Ipp=102  Cjof=1350p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ20A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=24  VBRmax=26.2
+ IR=1m  VCLmax=42.8  Ipp=93  Cjof=1250p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ20CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=24  VBRmax=26.2
+ IR=1m  VCLmax=42.8  Ipp=93  Cjof=1250p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ22A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=27  VBRmax=28.8
+ IR=1m  VCLmax=48.3  Ipp=83  Cjof=1150p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ22CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=27  VBRmax=28.8
+ IR=1m  VCLmax=48.3  Ipp=83  Cjof=1150p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ24A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=28  VBRmax=31.5
+ IR=1m  VCLmax=50  Ipp=80  Cjof=1112p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ24CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=28  VBRmax=31.5
+ IR=1m  VCLmax=50  Ipp=80  Cjof=1112p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ26A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=30  VBRmax=34.1
+ IR=1m  VCLmax=53.5  Ipp=76  Cjof=1075p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ26CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=30  VBRmax=34.1
+ IR=1m  VCLmax=53.5  Ipp=76  Cjof=1075p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ28A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=33  VBRmax=36.7
+ IR=1m  VCLmax=59  Ipp=68  Cjof=1000p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ28CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=33  VBRmax=36.7
+ IR=1m  VCLmax=59  Ipp=68  Cjof=1000p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ30A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=36  VBRmax=39.3
+ IR=1m  VCLmax=64.3  Ipp=62  Cjof=950p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ30CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=36  VBRmax=39.3
+ IR=1m  VCLmax=64.3  Ipp=62  Cjof=950p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ33A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=1u  VBRnom=39  VBRmax=43.3
+ IR=1m  VCLmax=69.7  Ipp=57  Cjof=900p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ33CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=39  VBRmax=43.3
+ IR=1m  VCLmax=69.7  Ipp=57  Cjof=900p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ40A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=47  VBRmax=52.4
+ IR=1m  VCLmax=84  Ipp=48  Cjof=800p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ40CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=47  VBRmax=52.4
+ IR=1m  VCLmax=84  Ipp=48  Cjof=800p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ48A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=56  VBRmax=62.9
+ IR=1m  VCLmax=100  Ipp=40  Cjof=700p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ48CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=56  VBRmax=62.9
+ IR=1m  VCLmax=100  Ipp=40  Cjof=700p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ58A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=68  VBRmax=76.0
+ IR=1m  VCLmax=121  Ipp=33  Cjof=625p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ58CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=68  VBRmax=76.0
+ IR=1m  VCLmax=121  Ipp=33  Cjof=625p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ70A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=82  VBRmax=91.8
+ IR=1m  VCLmax=146  Ipp=27  Cjof=550p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ70CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=82  VBRmax=91.8
+ IR=1m  VCLmax=146  Ipp=27  Cjof=550p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ85A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=100  VBRmax=111.4
+ IR=1m  VCLmax=178  Ipp=22.5  Cjof=500p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ85CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=100  VBRmax=111.4
+ IR=1m  VCLmax=178  Ipp=22.5  Cjof=500p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMBJ100A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=120  VBRmax=131
+ IR=1m  VCLmax=212  Ipp=19  Cjof=450p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ100CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=0.2u  VBRnom=120  VBRmax=131
+ IR=1m  VCLmax=212  Ipp=19  Cjof=450p
.ENDS
*$
.SUBCKT  SMBJ130A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=150  VBRmax=169.9
+ IR=1m  VCLmax=265  Ipp=15  Cjof=400p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ130CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=0.2u  VBRnom=150  VBRmax=169.9
+ IR=1m  VCLmax=265  Ipp=15  Cjof=400p
.ENDS
*$
.SUBCKT  SMBJ154A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=180  VBRmax=201.8
+ IR=1m  VCLmax=317  Ipp=12.6  Cjof=360p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ154CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=0.2u  VBRnom=180  VBRmax=201.8
+ IR=1m  VCLmax=317  Ipp=12.6  Cjof=360p
.ENDS
*$
.SUBCKT  SMBJ170A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=200  VBRmax=223
+ IR=1m  VCLmax=353  Ipp=11.3  Cjof=350p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ170CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=0.2u  VBRnom=200  VBRmax=223
+ IR=1m  VCLmax=353  Ipp=11.3  Cjof=350p
.ENDS
*$
.SUBCKT  SMBJ188A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=220  VBRmax=246.6
+ IR=1m  VCLmax=388  Ipp=10.3  Cjof=330p
+ ISF=27.04f   NF=1.016  RSF=13.69m   IKFF=41.7
.ENDS
*$
.SUBCKT  SMBJ188CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=0.2u  VBRnom=220  VBRmax=246.6
+ IR=1m  VCLmax=388  Ipp=10.3  Cjof=330p
.ENDS